US04996158
(R, S)-1-phenylethanol (0.276 gram, 2 mmol) and vinyl acetate (0.17 gram, 2 mmol) were dissolved in 10 ml of n-hexane dried in advance on Molecular Sieve 4A for one day. To the resulting solution was added 1 gram of PPL (porcine pancrea lipase: Product of Sigma), and the mixture was stirred at 25° C. and 150 r.p.m. to give (S)-1-phenylethanol in an optical purity of 90% with a theoretical yield of 85%.

reactant | vinyl acetate | 2 mmol, 0.17 gram | C(C)(=O)OC=C | C4H6O2
reactant | n-hexane | 10 ml | CCCCCC | C6H14
product | (S)-1-phenylethanol | yield of 85% | C1(=CC=CC=C1)[C@H](C)O | C8H10O
